US08242145B2
Step 2: {4-Hydroxy-3-[2-((4R,5S)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid
{4-Methoxy-3-[2-((4R,5S)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenoxy}-acetic acid methyl ester (2.0 g, 3.78 mmol) was treated with a 1:1 mixture of 48% hydrogen bromide and acetic acid, and the reaction was heated to 100° C. overnight. The mixture was concentrated to dryness, and then worked-up with EtOAc and saturated aqueous NaHCO3. The crude material was purified by silica gel chromatography to give the title compound.

reactant | {4-Methoxy-3-[2-((4R,5S)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenoxy}-acetic acid methyl ester | 3.78 mmol, 2.0 g | COC(COC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@H]([C@H]1C)C1=CC=CC=C1)=O)=O | C28H26F3NO7
reactant | hydrogen bromide | Br | BrH
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | {4-Hydroxy-3-[2-((4R,5S)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid | OC1=C(C=C(C=C1)CC(=O)O)OC1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@H]([C@H]1C)C1=CC=CC=C1)=O | C26H22F3NO6
